US04022779
(b) 4-Chloro-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester
55.8 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.2 mol.) are dissolved in 300 ml. of alcohol. After addition of 25 g. of triethylamine (0.25 mol.), the mixture is heated at reflux temperature and then 20 g. of N-methylpiperazine are dropped in with stirring. When the addition is completed, the temperature is maintained for 30 minutes. The solvent is distilled off, the residue is dissolved in benzene and the precipitated triethylammonium chloride filtered off. After evaporation of the solvent, the residual 4-chloro-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester is recrystallized from methanol, yield 40 g. (60%), m.p. 59°-61°.

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.2 mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])Cl)C | C9H8Cl2N2O4
reactant | triethylamine | 0.25 mol | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 4-Chloro-2-methyl-6-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])N1CCN(CC1)C)C | C14H19ClN4O4
